US04762843
A mixture of (±) trans-4,5,5a,6,7,8,9,9a-octahydrooxazolo[4,5-f]quinolin-2-amine, 1.46 g (5.0 mmol), 3.6 g (26 mmol) of finely ground potassium carbonate and 2.5 ml (25.6 mmol) of 1-iodopropane in 250 ml of acetonitrile is refluxed, under nitrogen, for 24 hours. The mixture is cooled, filtered through a pad of Celite, concentrated and partitioned between brine and chloroform. The organic extract is dried and concentrated. Chromatography of the mixture on silica gel gives (±) trans-4,5,5a,6,7,8,9,9a-octahydro-6-propyloxazolo[4,5-f]quinolin-2-amine. The procedure just described can be applied to (±) trans-4,5,5a,6,7,8,9,9a-octahydrooxazolo[5,4-f]quinolin-2-amine to give (±) trans-4,5,5a,6,7,8,9,9a-octahydro-6-propyloxazolo [5,4-f]quinolin-2-amine.

reactant | (±) trans-4,5,5a,6,7,8,9,9a-octahydrooxazolo[4,5-f]quinolin-2-amine | N1=C(OC2=C1[C@@H]1CCCN[C@H]1CC2)N | C10H15N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 25.6 mmol, 2.5 ml | ICCC | C3H7I
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | (±) trans-4,5,5a,6,7,8,9,9a-octahydro-6-propyloxazolo[4,5-f]quinolin-2-amine | C(CC)N1CCC[C@H]2C3=C(CC[C@H]12)OC(=N3)N | C13H21N3O
